US05326905
1. 3-[4-(chloromethyl)phenyl]propionyl chloride
A solution of 1.5 g (6.2 mmol) of 3-[4-(bromomethyl)phenyl]propionic acid (U.S. Pat. No. 4,032,533) and 1.2 g (9.3 mmol) of oxalyl chloride in 6 ml of dichloromethane was stirred at room temperature for 2.5 hours and evaporated to give 1.6 g of product as an oil.

reactant | 3-[4-(bromomethyl)phenyl]propionic acid | 6.2 mmol, 1.5 g | BrCC1=CC=C(C=C1)CCC(=O)O | C10H11BrO2
reactant | oxalyl chloride | 9.3 mmol, 1.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-[4-(chloromethyl)phenyl]propionyl chloride | 1.6 g | ClCC1=CC=C(C=C1)CCC(=O)Cl | C10H10Cl2O
